US06008229
To a mixture of 2-aminomethyl-1-[3-(tert-butyldiphenylsilyloxymethyl)-2,4-dichlorophenyl]pyrrole (167 mg) and triethylamine (39.8 mg) in dichloromethane (2 ml) was added propionyl chloride (33.4 mg) under ice-cooling, and the mixture was stirred for 1 hour at the same temperature and for 3 hours at ambient temperature. The mixture was poured into water and extracted with chloroform. The organic layer was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo to give 1-(3-tert-butyldiphenylsilyloxymethyl-2,4-dichlorophenyl)-2-(propionamidomethyl)pyrrole (185 mg) as oil.

reactant | 2-aminomethyl-1-[3-(tert-butyldiphenylsilyloxymethyl)-2,4-dichlorophenyl]pyrrole | 167 mg | NCC=1N(C=CC1)C1=C(C(=C(C=C1)Cl)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)Cl | C28H30Cl2N2OSi
reactant | triethylamine | 39.8 mg | C(C)N(CC)CC | C6H15N
reactant | propionyl chloride | 33.4 mg | C(CC)(=O)Cl | C3H5ClO
reactant | water | O | H2O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 1-(3-tert-butyldiphenylsilyloxymethyl-2,4-dichlorophenyl)-2-(propionamidomethyl)pyrrole | 185 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1C(=C(C=CC1Cl)N1C(=CC=C1)CNC(CC)=O)Cl | C31H34Cl2N2O2Si
